### PR TITLE
[Merged by Bors] - feat(CategoryTheory): right Kan extensions and Guitart exact squares

### PR DESCRIPTION
**Pull request by joelriou**
This PR only dualises for right Kan extensions what had already been obtained for left Kan extensions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/GuitartExact/KanExtension.lean [hunk 1]
```diff
@@ -200,6 +298,51 @@ instance [∀ (F : C₁ ⥤ D), L.HasLeftKanExtension F]
...
+      ((RightExtension.mk _ (B.ranCounit.app F)).compTwoSquare w).hom
+  naturality {F₁ F₂} τ := by
+    refine (Adjunction.homEquiv_naturality_left ..).symm.trans
+      (Eq.trans ?_ (Adjunction.homEquiv_naturality_right ..))
+    congr 1
+    ext X
+    simp [← dsimp% B.ranCounit.naturality_app (L.obj X) τ]
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency.types false in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/GuitartExact/KanExtension.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/GuitartExact/KanExtension.lean [hunk 2]
```diff
@@ -200,6 +298,51 @@ instance [∀ (F : C₁ ⥤ D), L.HasLeftKanExtension F]
...
+lemma isIso_ranBaseChange_app_iff (F : C₃ ⥤ D) :
+    IsIso (w.ranBaseChange.app F) ↔
+      IsRightKanExtension _ ((RightExtension.mk _ (B.ranCounit.app F)).compTwoSquare w).hom := by
+  rw [ranBaseChange_app, isIso_ranAdjunction_homEquiv_iff]
+  simp
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/GuitartExact/KanExtension.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/GuitartExact/KanExtension.lean [hunk 3]
```diff
@@ -200,6 +298,51 @@ instance [∀ (F : C₁ ⥤ D), L.HasLeftKanExtension F]
   rw [NatTrans.isIso_iff_isIso_app]
   infer_instance
 
+section
+
+variable [∀ (F : C₁ ⥤ D), T.HasRightKanExtension F] [∀ (F : C₃ ⥤ D), B.HasRightKanExtension F]
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency.types false in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/GuitartExact/KanExtension.lean]:
```suggestion
```

**Review by robin-carlier — COMMENTED** [review]
Thanks! Can you also remove the unnecessary `set_option`s in the left Kan extensions portion of the file as well?

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
